US06734184B1
1-Mesylpiperazine hydrochloride (4.24 g) was added to a solution of methyl 6-chloronicotinate (1.7 g) and N,N-diisopropylethylamine (6.3 ml) in dimethylacetamide (20 ml) and the mixture was heated at 120° C. for 2 hours. The mixture was allowed to cool to ambient temperature and poured onto crushed ice/water (50 ml) to precipitate a tan solid. The solid was collected by filtration and dried at 80° C. for 18 hours in a vacuum oven, to give 1-mesyl-4-(5-methoxycarbonyl-2-pyridyl)piperazine (2.05 g), mp 205-207° C.

reactant | 1-Mesylpiperazine hydrochloride | 4.24 g | Cl.S(=O)(=O)(C)N1CCNCC1
reactant | methyl 6-chloronicotinate | 1.7 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | N,N-diisopropylethylamine | 6.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 1-mesyl-4-(5-methoxycarbonyl-2-pyridyl)piperazine | 2.05 g | S(=O)(=O)(C)N1CCN(CC1)C1=NC=C(C=C1)C(=O)OC | C12H17N3O4S
